US06989392B2
8-((2E)-but-2-enyloxy)quinolin-2-amine
A 250 mL round bottom flask was charged with 2.00 g (12.5 mmol) of 2-amino-8-hydroxyquinoline, 3.46 g (25.0 mmol), of K2CO3 and 63 mL of anhydr ethanol. Following the dissolution of 2-amino-8-hydroxyquinoline, 1.51 mL of 3-chloro-1-butene (15.0 mmol) was added in one portion, and the mixture was heated to 65° C. in an oil bath. After 48 h, the solvent was evaporated and the residue dissolved in EtOAc and washed with H2O. The combined aqueous layers were back-extracted with EtOAc. The organic layers were then pooled, dried, and filtered. The residue was then purified by column chromatography (SiO2; EtOAc/hexanes with 0.1% Et3N). The resultant material was then re-crystallized from Et2O to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.82 (m, 1H), 7.16 (m, 1H), 7.00 (m, 2H), 6.73 (m, 1H), 6.39 (m, 2H), 5.67–5.98 (m, 2H), 4.44–4.67 (m, 2H), 1.74 (m, 3H); MS (DCI/NH3) m/z 215 [M+H]+.

reactant | 2-amino-8-hydroxyquinoline | 12.5 mmol, 2.00 g | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloro-1-butene | 15.0 mmol, 1.51 mL | ClC(C=C)C | C4H7Cl
solvent | ethanol | 63 mL | C(C)O | C2H6O
product | 8-((2E)-but-2-enyloxy)quinolin-2-amine | C(\C=C\C)OC=1C=CC=C2C=CC(=NC12)N | C13H14N2O
